US08686150B2
(d) 6-Benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester
4.5 g of 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane were dissolved in 40 ml of DCM and 4.18 g of di-tert-butyl dicarbonate were added. After stirring at r.t. for 1 h the reaction was concentrated in vacuo to yield 6.8 g (100%) of the title compound, which was used without further purification.

reactant | 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane | 4.5 g | C(C1=CC=CC=C1)N1C2(CCCC2)CNC(C1)(C)C | C17H26N2
reactant | di-tert-butyl dicarbonate | 4.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 6-Benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane-9-carboxylic acid tert-butyl ester | 6.8 g, 100% | C(C)(C)(C)OC(=O)N1C(CN(C2(CCCC2)C1)CC1=CC=CC=C1)(C)C | C22H34N2O2
